US08207288B2
Synthesis of Bisphenol C Oligomer
A solution prepared by dissolving 0.2 kg of 2.2-bis(3-methyl-4-hydroxyphenyl) propane in 1.2 kg of aqueous potassium hydroxide having a concentration of 16 mass % was mixed with 1.0 kg of methylene chloride. Then, while the solution was being stirred, phosgene gas was blown into the solution while cooling at 1 L/min until pH becomes 9 or less. Subsequently, the reaction solution was separated in a stand still manner, and a methylene chloride solution of an oligomer which has 2 to 6 polymerization degree and a chloroformate group at its molecular terminal was obtained as an organic layer (a solid content concentration of 0.30 kg/L). This oligomer is referred to as “PCO-C” hereinafter.

reactant | 2.2-bis(3-methyl-4-hydroxyphenyl) propane | 0.2 kg | CC=1C=C(C=CC1O)C(C)(C)C1=CC(=C(C=C1)O)C | C17H20O2
reactant | methylene chloride | 1.0 kg | C(Cl)Cl | CH2Cl2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | potassium hydroxide | 1.2 kg | [OH-].[K+]
product | Bisphenol C | C1=CC(=CC=C1C(=C(Cl)Cl)C2=CC=C(C=C2)O)O | C14H10Cl2O2
